US06162819
3-(5-Carboxy-2-furyl)indazole:
2.5 g (11 mmol) of 5-(2-fluorobenzoyl)furan-2-carboxylic acid, 3.28 g (24 mmol) of benzhydrazide and 2 drops of glacial acetic acid in 50 ml of ethanol were heated under reflux for 10 h. The mixture was subsequently concentrated using a rotary evaporator and the residue was taken up in water, made alkaline using 2 N NaHCO3 solution and extracted with ethyl acetate. The aqueous phase was made acidic using 2N hydrochloric acid and extracted with ethyl acetate. The combined organic phases were dried and concentrated using a rotary evaporator. The residue was dissolved in 25 ml of THF, 2.74 g (24.2 mmol) of potassium tert-butoxide were added and the mixture was stirred at reflux temperature for 1.5 h. After cooling, the mixture was concentrated using a rotary evaporator and the residue was taken up in 1 N aqueous sodium hydroxide solution and extracted with ethyl acetate. The precipitate that resulted when the aqueous phase was acidified was filtered off with suction, washed with water and dried in a vacuum drying cabinet at 40° C. This gave 1.88 g (75%) of the title compound. m.p.: 205° C. (decomp).

reactant | 5-(2-fluorobenzoyl)furan-2-carboxylic acid | 11 mmol, 2.5 g | FC1=C(C(=O)C2=CC=C(O2)C(=O)O)C=CC=C1 | C12H7FO4
reactant | benzhydrazide | 24 mmol, 3.28 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | potassium tert-butoxide | 24.2 mmol, 2.74 g | CC(C)([O-])C.[K+]
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(5-Carboxy-2-furyl)indazole | C(=O)(O)C1=CC=C(O1)C1=NNC2=CC=CC=C12 | C12H8N2O3
